US07863310B2
Isobutyl-6-(1-cyclohexyl-4-phenyl-1H-imidazol-5-yl)-1H-benzimidazole
Heat a mixture of 1-(cyclohexyl)-4-phenyl-5-(3-(isobutylamino)-4-aminophenyl)-1H-imidazole (83 mg, 0.21 mmol) and 3 mL trimethyl orthoformate at 120° C. for 6 hours. Cool to room temperature and concentrate under reduced pressure. Subject the residue to silica gel chromatography, eluting with 3:1 ethyl acetate:hexanes to provide the title compound (73%).

reactant | 1-(cyclohexyl)-4-phenyl-5-(3-(isobutylamino)-4-aminophenyl)-1H-imidazole | 0.21 mmol, 83 mg | C1(CCCCC1)N1C=NC(=C1C1=CC(=C(C=C1)N)NCC(C)C)C1=CC=CC=C1 | C25H32N4
reactant | trimethyl orthoformate | 3 mL | C(OC)(OC)OC | C4H10O3
product | Isobutyl-6-(1-cyclohexyl-4-phenyl-1H-imidazol-5-yl)-1H-benzimidazole | 73% | C(C(C)C)N1C=NC2=C1C=C(C=C2)C2=C(N=CN2C2CCCCC2)C2=CC=CC=C2 | C26H30N4
